US05866592
t-Butyloxycarbonyl-β-alanine t-butyl ester (2.26 g) was added dropwise to a solution of lithium diisopropylamide (LDA) (6.9 ml, 13.8 mmol) in tetrahydrofuran (10 ml) at -78° C. and hexamethylphosphoroamide (HMPA) (2 ml) was added thereto. The temperature of the reaction solution was elevated gradually to -20° C. over 1 hour and lowered again to -78° C. To the reaction solution, ethyl bromide (0.76 ml) was added dropwise. The temperature of the solution was elevated to 0° C. over 2 hours and the reaction was stopped by adding a saturated aqueous solution of ammonium chloride. After the solvent was distilled off, the residue was dissolved in ethyl acetate and washed sequentially with a 5% aqueous solution of sodium hydrogencarbonate, a 5% aqueous solution of citric acid and a saturated aqueous solution of NaCl 3 times each. The ethyl acetate layer was dried over anhydrous sodium sulfate and the solvent was then distilled off to yield an oil. The obtained oil was applied to a silica gel column (2.5×40 cm) and eluted with a mixed solution (hexane:ethyl acetate=40:1). The desired fractions were collected and the solvents were distilled off to yield an oil of N-t-butyloxycarbonyl-α-ethyl-β-alanine-t-butyl ester (0.98 g, 38.9%).

reactant | t-Butyloxycarbonyl-β-alanine t-butyl ester | 2.26 g | C(C)(C)(C)OC(CCNC(=O)OC(C)(C)C)=O | C12H23NO4
reactant | lithium diisopropylamide | 13.8 mmol, 6.9 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | ethyl bromide | 0.76 ml | C(C)Br | C2H5Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | HMPA | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | N-t-butyloxycarbonyl-α-ethyl-β-alanine-t-butyl ester | 0.98 g, 38.9% | C(C)(C)(C)OC(C(CNC(=O)OC(C)(C)C)CC)=O | C14H27NO4
